US04788290
2-[4-(2,3-Dihydro-1,4-benzodioxin-2-ylmethyl)-1-piperazinyl]pyrazine
1-(2,3-Dihydro-1,4-benzodioxin-2-ylmethyl)piperazine (2.35 g, 10 mmole), 2-chloropyrazine (1.15 g, 10 mmole) and diisopropylethylamine (1.3 g, 10 mmole) were combined in 100 ml of 1-methyl-2-pyrrolidinone and heated under N2 at 100° C. for 24 hours. Upon cooling, the solvent was removed in vacuum and the residue filtered through 75 g of silica gel using chloroform as the eluent. The product-containing fractions were combined, the solvent evaporated and the residue was crystallized from methanol with addition of 4N isopropanolic HCl. A second recrystallization from methanol gave 850 mg of title compound, as the dihydrochloride salt, m.p. 248°-253° C.(d).

reactant | 1-(2,3-Dihydro-1,4-benzodioxin-2-ylmethyl)piperazine | 10 mmole, 2.35 g | O1C(COC2=C1C=CC=C2)CN2CCNCC2 | C13H18N2O2
reactant | 2-chloropyrazine | 10 mmole, 1.15 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | diisopropylethylamine | 10 mmole, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1-methyl-2-pyrrolidinone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 2-[4-(2,3-Dihydro-1,4-benzodioxin-2-ylmethyl)-1-piperazinyl]pyrazine | 850 mg | O1C(COC2=C1C=CC=C2)CN2CCN(CC2)C2=NC=CN=C2 | C17H20N4O2
